US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (44 mg) and 4-(4-bromo-benzenesulfonyl)-morpholine (prepared from 4-bromobenzenesulfonyl chloride, morpholine and pyridine in acetonitrile, 51 mg) instead of 4-bromobenzoic acid methyl ester in Example 1-D-08, in the same manner as Example 1-D-08, a crude product of bis-(4-methoxy-benzyl)-(5-{7-[4-(morpholine-4-sulfonyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine was obtained, and then the PMB groups were removed according to the above Deprotection method 1, to obtain the desired compound (D-87) as a yellow powder (53 mg, 68%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 44 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-(4-bromo-benzenesulfonyl)-morpholine | 51 mg | BrC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12BrNO3S
product | bis-(4-methoxy-benzyl)-(5-{7-[4-(morpholine-4-sulfonyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=CC=C(C=C3)S(=O)(=O)N3CCOCC3)CC3=CC=C(C=C3)OC)C=C1 | C40H44N8O6S
